US07429565B2
2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester
Under a N2 atmosphere, a solution of 2-(4-bromo-but-2-enyl)-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester (490 mg, 1.05 mmol) in trimethylphosphite (2.5 mL, 21.1 mmol) was heated at 120° C. for 1 hour. The reaction was allowed to cool to room temperature. The reaction mixture was worked up by removal of the solvent in vacuo followed by chromatography using EtOAc-hexanes to provide 460 mg (88%) of the product as an oil. 1H NMR (300 MHz, CDCl3) δ 1.77 (s, 3H), 2.081-2.31 (m, 4H), 2.15 (s, 3H), 2.52 (d, 1H, J=22 Hz), 2.54 (d, 1H, J=22 Hz), 2.55-2.63 (m, 1H), 3.36 (d, 2H, J=7 Hz), 3.57 (s, 3H), 3.72 (d, 6H, J=11 Hz), 3.76 (s, 3H), 5.20 (s, 2H), 5.20-5.26 (m, 1H), 5.36-5.56 (m, 2H), 7.69 (s, 1H) ppm; 31p (121.4 MHz, CDCl3) δ 30.1 ppm; MS (m/z) 497.2 [M+H]+, 519.2 [M+Na]+.

reactant | 2-(4-bromo-but-2-enyl)-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 1.05 mmol, 490 mg | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)CC=CCBr)=O | C22H27BrO6
reactant | trimethylphosphite | 21.1 mmol, 2.5 mL | COP(OC)OC | C3H9O3P
product | 2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 460 mg, 88% | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)CC=CCP(=O)(OC)OC)=O | C24H33O9P
